US04874775
N-(4-chlorophenyl)-N-(pyridin-2-ylmethyl)methanesulfonamide
A 3.3 g. portion of 2-(4-chlorophenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.7 g. of potassium carbonate and 1.5 ml. of methanesulfonyl chloride were added. The mixture was stirred overnight at ambient temperature, and then was stirred for 1 day under gentle reflux. Another 0.5 ml. of methanesulfonyl chloride was added, and the reflux was continued for several hours. Then the mixture was cooled and filtered, and the filtrate was chromatographed on a silica gel column, eluting with chloroform. The product-containing fractions were combined and evaporated to obtain 1 g. of the desired product.

reactant | 2-(4-chlorophenylaminomethyl)pyridine | ClC1=CC=C(C=C1)NCC1=NC=CC=C1 | C12H11ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-N-(pyridin-2-ylmethyl)methanesulfonamide | ClC1=CC=C(C=C1)N(S(=O)(=O)C)CC1=NC=CC=C1 | C13H13ClN2O2S
